US05686442
In the same manner as above, a solution of ethyl 1-(4-methoxybenzyl)-5-(4,5-dimethoxy-2-nitrobenzoyl)-1,2,3-triazole-4-carboxylate (b-2) (3.12 g, 6.63 mmole) in tetrahydrofuran (100 ml) was hydrolyzed with a 1N aqueous sodium hydroxide solution (13 ml) at room temperature for 3.5 hours to give 1-(4-methoxybenzyl)-5-(4,5-dimethoxy-2-nitrobenzoyl)-1,2,3-triazole-4-carboxylic acid (c-2': MP) (2.32 g, 79%)

reactant | ethyl 1-(4-methoxybenzyl)-5-(4,5-dimethoxy-2-nitrobenzoyl)-1,2,3-triazole-4-carboxylate | 6.63 mmole, 3.12 g | COC1=CC=C(CN2N=NC(=C2C(C2=C(C=C(C(=C2)OC)OC)[N+](=O)[O-])=O)C(=O)OCC)C=C1 | C22H22N4O8
reactant | sodium hydroxide | 1N, 13 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-(4-methoxybenzyl)-5-(4,5-dimethoxy-2-nitrobenzoyl)-1,2,3-triazole-4-carboxylic acid | COC1=CC=C(CN2N=NC(=C2C(C2=C(C=C(C(=C2)OC)OC)[N+](=O)[O-])=O)C(=O)O)C=C1 | C20H18N4O8
